US05663200
6a) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}dihydrofuran-2-(3H)-one
In analogy with Example 5d), 5.0 g (16.34 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one, dissolved in 24 ml of abs. THF and 2.7 ml of DMPU, are deprotonated, at -75° C., with 32.7 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and alkylated, at -75° C., with 9.67 g (24.5 mmol) of p-(2,6-dichlorobenzylsulfonyl)benzyl bromide (Maybridge; Tintagel/UK) in 50 ml of abs. THF. Protonation, at -75° C., with 6.1 ml (81.7 mmol) of propionic acid and 6.1 ml of water, extraction and column chromatography (SiO2, hexane/ethyl acetate, 2:1) of the crude product, and crystallization from DIPE, affords the title compound: TLC Rf (D)=0.30; tRet (II)=17.3 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 16.34 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-(2,6-dichlorobenzylsulfonyl)benzyl bromide | 24.5 mmol, 9.67 g | ClC1=C(CS(=O)(=O)C2=CC=C(CBr)C=C2)C(=CC=C1)Cl | C14H11BrCl2O2S
reactant | propionic acid | 81.7 mmol, 6.1 ml | C(CC)(=O)O | C3H6O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 6.1 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMPU | 2.7 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl | C31H33Cl2NO6S
